US08039450B2
To a 20 mL scintillation vial containing 5-(4-aminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol (150 mg, 0.59 mmol, 1.0 eq.) in DCM (5.0 mL) was added phenylisocyanate (71 μL, 0.65 mmol, 1.1 eq.). The mixture was stirred at room temperature overnight. The mixture was treated with H2O (5 mL). The precipitate was collected by filtration and washed with H2O to give 1-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-3-phenyl-urea as a white solid. LCMS (m/z) 375 (M+H); 1H NMR (DMSO-d6) δ: 9.07 (s, 1H), 8.51 (s, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.37 (dd, J=8.6, 1.0 Hz, 2H), 7.30-7.35 (m, J=8.6 Hz, 2H), 7.19 (t, J=8.0 Hz, 2H), 6.99-7.04 (m, 2H), 6.88-6.95 (m, 3H), 6.58 (s, 1H), 4.89 (s, 2H), 4.27 (d, J=5.9 Hz, 2H).

reactant | 5-(4-aminomethyl-phenoxy)-3H-benzo[c][1,2]oxaborol-1-ol | 0.59 mmol, 150 mg, 1.0 eq. | NCC1=CC=C(OC2=CC3=C(B(OC3)O)C=C2)C=C1 | C14H14BNO3
reactant | phenylisocyanate | 0.65 mmol, 71 μL, 1.1 eq. | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | H2O | 5 mL | O | H2O
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-benzyl]-3-phenyl-urea | OB1OCC2=C1C=CC(=C2)OC2=CC=C(CNC(=O)NC1=CC=CC=C1)C=C2 | C21H19BN2O4
